US04005077
10 g (0.13 mol) of N-methylethanolamine are added to a solution of 21 g (0.03 mol) of rifamycin-S in 20 ml of dioxan and the whole heated for 15 minutes on a boiling water bath. The batch is then evaporated to dryness in vacuo and the residue chromatographed on 2kg of silica gel, using chloroform as eluant. In addition to a dark-colored head zone, two strong, yellow-colored bands are observed. The eluate of the more slowly eluted band is evaporated and the residue crystallized from aqueous methanol. After three crystallizations from aqueous methanol there is obtained 3-N-methylethanol-amino)-rifamycin-SV in the form of coarse prisms melting at 218° C (with decomposition.

reactant | N-methylethanolamine | 0.13 mol, 10 g | CNCCO | C3H9NO
reactant | rifamycin-S | 0.03 mol, 21 g | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | rifamycin | CC1=C(C2=C3C(=CC(=C2O)NC(=O)/C(=C\C=C\[C@@H]([C@@H]([C@H]([C@H]([C@H]([C@@H]([C@@H]([C@H](/C=C/O[C@@]4(C(=O)C3=C1O4)C)OC)C)OC(=O)C)C)O)C)O)C)/C)O)O | C37H47NO12
